Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base / cheeses soft, ___, cottage, cream cheese
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:30AM BLOOD WBC-10.0 RBC-3.49* Hgb-9.1* Hct-29.8* 
MCV-85 MCH-26.1 MCHC-30.5* RDW-16.9* RDWSD-50.8* Plt ___
___ 02:30AM BLOOD Neuts-51 ___ Monos-7 Eos-0* Baso-1 
AbsNeut-5.10 AbsLymp-4.10* AbsMono-0.70 AbsEos-0.00* 
AbsBaso-0.10*
___ 02:30AM BLOOD Glucose-384* UreaN-19 Creat-1.1 Na-135 
K-4.4 Cl-100 HCO3-21* AnGap-14
___ 07:45AM BLOOD ALT-41* AST-41* AlkPhos-110 TotBili-0.2
___ 03:04AM BLOOD Lactate-2.5*
___ 07:49AM BLOOD Lactate-1.6
___ 11:02PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:02PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 
Leuks-NEG
URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
========
CT ABD & PELVIS WITH CO ___
LOWER CHEST: ICD leads were demonstrated within the right 
ventricle and 
atrium. Moderate calcification of the coronary arteries. The 
visualized lung fields are within normal limits. There is no 
evidence of pleural or 
pericardial effusion. 
  
HEPATOBILIARY: Normal attenuation of the liver. There is no 
evidence of focal lesions. There is no evidence of intrahepatic 
biliary dilatation.  The common hepatic duct measures up to 9 mm 
which is likely secondary to post cholecystectomy changes. The 
gallbladder is surgically absent. 
  
PANCREAS: The pancreas is atrophic and fatty replaced. There is 
no 
peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. There is no evidence of solid renal lesions 
or hydronephrosis. There is no perinephric abnormality. 
  
GASTROINTESTINAL: Small hiatal hernia, the stomach is 
unremarkable.  A 
surgical clip is adjacent lesser curvature of the stomach, 
possibly secondary a dropped clip during prior cholecystectomy. 
Small bowel loops demonstrate normal caliber, wall thickness, 
and enhancement throughout. Diverticulosis of the sigmoid colon 
is noted, without evidence of wall thickening or fat stranding. 
The appendix is not visualized. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
grossly 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm. Moderate 
atherosclerotic 
disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. Moderate multilevel degenerative changes of the 
lower thoracic and lumbar spine included vertebral disc space 
narrowing osteophytosis and vacuum phenomena. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: No finding to explain the patient's symptoms. 

DISCHARGE LABS:
===============
___ 12:00AM BLOOD WBC-8.2 RBC-3.42* Hgb-8.7* Hct-29.2* 
MCV-85 MCH-25.4* MCHC-29.8* RDW-17.1* RDWSD-52.9* Plt ___
___ 12:00AM BLOOD Neuts-32* Lymphs-54* Monos-6 Eos-4 Baso-0 
Other-4* AbsNeut-2.62 AbsLymp-4.43* AbsMono-0.49 AbsEos-0.33 
AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-2+* Anisocy-1+* Poiklo-2+* 
Microcy-1+* Polychr-1+* Spheroc-2+* Ovalocy-2+* Tear Dr-1+* 
Acantho-1+* RBC Mor-SLIDE REVI
___ 12:00AM BLOOD Glucose-299* UreaN-16 Creat-1.0 Na-139 
K-4.2 Cl-103 HCO3-24 AnGap-12
___ 12:00AM BLOOD ALT-41* AST-47* LD(LDH)-246 AlkPhos-100 
TotBili-0.2
___ 12:00AM BLOOD Albumin-3.7 Calcium-8.9 Phos-3.9 Mg-1.8
 
Brief Hospital Course:
PATIENT SUMMARY
=================
___ with CLL (on venetoclax) with history of depression with 
psychotic features, T2DM, stroke, s/p gastric bypass and 
cholecystectomy who presented with lower abdominal pain and 
difficulty urinating. Patient was able to void normally with 
PVRs < 50 cc without intervention. Workup for cause of abdominal 
pain was unrevealing.

ACUTE ISSUES
=============
#Acute Abdominal Pain
Patient reported severe lower abdominal pain which he stated was 
similar to his most recent admission during which he was treated 
for a UTI. UA, however, revealed no evidence of infection. In 
addition, CT AP was performed which also did not reveal a cause 
for the patient's pain. Recent CTA revealed no evidence of 
mesenterich ischemia. Recent EGD revealed a healing duodenal 
ulcer for which the patient had been placed on BID PPI. He 
stated this pain was unlike his ulcer pain. He remained 
hemodynamically stable and pain was well-controlled with his 
home regimen of oxycodone, PPI, and Carafate prior to discharge.

#Urinary retention
Patient reported suprapubic tenderness and had a temperature of 
100.2. He was initially treated empirically with cefepime. UA 
however, had no evidence of infection and antibiotics were 
stopped. In addition, the patient was able to void spontaneously 
and had PVRs < 50 mls. 

CHRONIC ISSUES
===============
#CLL: Patient had recurrence of night sweats and noted to have 
an increase in his white blood cell count with prominent 
lymphocytosis, consistent with relapsing disease. Given these 
changes, he was started on ibrutinib. However, given multiple
significant bleeding events (GI bleeding and pericardial bleed), 
further ibrutinib therapy was deferred and venetoclax was 
initiated. In the setting of active infection concern, 
venetoclax was held but now restarted on ___ per primary
oncologist. 
- Continued venetoclax 400mg daily
- Continued acyclovir for infectious prophylaxis

# Paroxysmal Afib
- Continued home Metoprolol and rivaroxaban 

#T2DM: Continues on ___ with SS per ___ recommendations 
from previous admission. 
- Held metformin on admission. 

#History of depression with psychotic features: 
- Continued risperdal, melatonin, hydroxyzine, Topamax

#SSS status post PPM: Atrial paced per EKG in ED
- Continued rivaroxaban 20mg daily
- Continued Metoprolol 

#History of Gout: 
-Continued allopurinol ___ daily

#Hypothyroidism: 
- Continued synthroid ___ ___

#History of Jejunal Ulcer: 
- Continued sucralfate and pantoprazole

#History of CVA: Had right-sided subcortical lacunar infarcts in
___ with residual mild left-sided weakness, but does not have 
an effect on mobility. 
- Continued ASA 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Acyclovir 400 mg PO Q8H 
3. Allopurinol ___ mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Gabapentin 100 mg PO TID 
8. Levothyroxine Sodium 125 mcg PO DAILY 
9. Lidocaine 5% Patch 3 PTCH TD QPM 
10. OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
11. Pantoprazole 40 mg PO Q12H 
12. Rivaroxaban 20 mg PO DINNER 
13. Senna 8.6 mg PO BID 
14. Sucralfate 1 gm PO BID 
15. Atorvastatin 40 mg PO QPM 
16. Fenofibrate 54 mg PO DAILY 
17. HydrOXYzine 10 mg PO Q6H:PRN anxiety 
18. Magnesium Oxide 400 mg PO BID 
19. melatonin 6 mg oral qhs 
20. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
21. RisperiDONE 3 mg PO QHS 
22. Topiramate (Topamax) 50 mg PO DAILY 
23. Venetoclax 400 mg PO DAILY 
24. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
25. Metoprolol Succinate XL 150 mg PO DAILY 

 
Discharge Medications:
1.  ___ 70 Units Breakfast
___ 50 Units Lunch
___ 30 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
2.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Acyclovir 400 mg PO Q8H  
4.  Allopurinol ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Docusate Sodium 100 mg PO BID  
8.  Escitalopram Oxalate 20 mg PO DAILY  
9.  Fenofibrate 54 mg PO DAILY  
10.  Gabapentin 100 mg PO TID  
11.  HydrOXYzine 10 mg PO Q6H:PRN anxiety  
12.  Levothyroxine Sodium 125 mcg PO DAILY  
13.  Lidocaine 5% Patch 3 PTCH TD QPM  
14.  Magnesium Oxide 400 mg PO BID  
15.  melatonin 6 mg oral qhs  
16.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
Do Not Crush  
17.  Metoprolol Succinate XL 150 mg PO DAILY  
18.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate  
19.  Pantoprazole 40 mg PO Q12H  
20.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
21.  RisperiDONE 3 mg PO QHS  
22.  Rivaroxaban 20 mg PO DINNER  
23.  Senna 8.6 mg PO BID  
24.  Sucralfate 1 gm PO BID  
25.  Topiramate (Topamax) 50 mg PO DAILY  
26.  Venetoclax 400 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- Acute Abdominal Pain

Secondary Diagnoses: 
- CLL
- Hypothyroidism
- Insulin dependent diabetes mellitus 
- Depression with psychotic features, in remission 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege taking care of you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were having abdominal pain and trouble urinating

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had a CT scat of your abdomen which did not reveal any 
cause for your pain. 
- You were able to urinate normally. We performed an ultrasound 
of your bladder which showed that you were able to empty your 
bladder normally and there was only a small amount of urine left 
afterwards.
- We performed a lab test on your urine and found that there was 
no infection there.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please attend your upcoming appointment with Dr. ___ on 
___ at 1:50 ___. He will continue to work 
with you to control your pain.
- If you have another flare in your abdominal pain, please call 
Dr. ___
- ___ attend your urology appointment on ___ at 1:15 
___.   

We wish you the best.

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___